US04602099
In the procedure of Example 4(B) 5-(2-methyltetradecyloxy)-2-furancarboxylic acid was substituted for cis-5-(11-tetradecenyloxy)-2-furancarboxylic acid to yield methyl 5-(2-methyltetradecyloxy)-2-furyl ketone, M.P. 45°-47° C.

reactant | 5-(2-methyltetradecyloxy)-2-furancarboxylic acid | CC(COC1=CC=C(O1)C(=O)O)CCCCCCCCCCCC | C20H34O4
reactant | cis-5-(11-tetradecenyloxy)-2-furancarboxylic acid | C(CCCCCCCCC\C=C/CC)OC1=CC=C(O1)C(=O)O | C19H30O4
product | methyl 5-(2-methyltetradecyloxy)-2-furyl ketone | CC(COC1=CC=C(O1)C(=O)C)CCCCCCCCCCCC | C21H36O3
